US04238389
Conjugation of 2-Propyl-2-(2'-carboxyethyl)-pentanoic Acid to BSA (Bovine Serum Albumin)
To a solution of BSA (300 mg, 5×10-4 mmole) in 20 ml of phosphate buffer was added the hapten, 2,2-dipropylglutaric anhydride as prepared in Example 5 (55 mg, 0.25 mmole in 200 ml THF) in 4μl portions over an hour. The resulting clear solution was stirred at 4° overnight, after which it was dialyzed in 7×2 liter of water adjusted to pH 8 with phosphate buffer, followed by one time with deionized water. The dialysis took 5 days. Lyophilization gave 320 mg of conjugate having a hapten number of 40 as estimated by the amino group precipitation method.

reactant | 2,2-dipropylglutaric anhydride | C(CC)C1(C(=O)OC(CC1)=O)CCC | C11H18O3
reactant | phosphate | 20 ml | P(=O)([O-])([O-])[O-]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-Propyl-2-(2'-carboxyethyl)-pentanoic Acid | C(CC)C(C(=O)O)(CCC)CCC(=O)O | C11H20O4
